US04486589
2-(1-Chloroethyl)benzenesulfonyl chloride
A solution of 2-ethylbenzenesulfonyl chloride (obtained by chlorosulfonation of ethylbenzene) (7.78 g) in carbon tetrachloride (5.0 ml) was contacted with a solution of dichlorine monoxide (82 mmol) in carbon tetrachloride (100 ml) and the mixture was heated in a closed system at 50°-60° for 16 hrs. The mixture was dried (MgSO4) and volatiles were removed under vacuum. The residue was kugelrohr distilled to give 7.63 g of colorless oil, bp 75°-80° (0.15 mm). 1H nmr δCDCl3TMS 8.20-7.35 (m). 6.13 (g, J-7 Hz), 1.90 (d, J=7 Hz).

reactant | 2-ethylbenzenesulfonyl chloride | 7.78 g | C(C)C1=C(C=CC=C1)S(=O)(=O)Cl | C8H9ClO2S
reactant | dichlorine monoxide | 82 mmol | O(Cl)Cl | Cl2O
solvent | carbon tetrachloride | 5.0 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(1-Chloroethyl)benzenesulfonyl chloride | 7.63 g | ClC(C)C1=C(C=CC=C1)S(=O)(=O)Cl | C8H8Cl2O2S
